US04216152
N-(N'-Methylene-2-Pyrrolidonyl)-2-Butylmercaptoaniline
2-Butylmercaptoaniline was prepared from -2-nitrothiophenol by a two-step reaction sequence consisting of alkylation followed by reduction. The aniline then was condensed with N-chloromethyl-2-pyrrolidone to yield the desired product.

reactant | 2-nitrothiophenol | [N+](=O)([O-])C1=C(C=CC=C1)S | C6H5NO2S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | N-chloromethyl-2-pyrrolidone | ClCN1C(CCC1)=O | C5H8ClNO
product | 2-Butylmercaptoaniline | C(CCC)SC1=C(N)C=CC=C1 | C10H15NS
